US07109229B2
(a) 3-(6-Benzyloxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
To a suspension of (6-benzyloxy-1H-indol-3-yl}-oxo-acetic acid methyl ester (1.0 g, 3.2 mmol) and 2-(1-methyl-1H-indol-7-yl)-acetamide (608 mg, 3.2 mmol) in 15 ml THF was added 3.5 equiv. of tBuOK in THF at 0° C. (11.3 ml of 1.0 M solution in THF) under N2. The mixture was stirred at r.t overnight, quenched with conc. HCl 5.0 ml, and neutralized with 5 N NaOH to PH=8. The mixture was extracted with ethyl acetate, and the extract was washed with saturated NaHCO3, brine and water, dried over anhydrous MgSO4, filtered and concentrated. The residue was purified by flash chromatography with Hexane:Ethyl acetate (1:1) to yield the title compound (700 mg) as orange solid, 74% yield. MS(m/z): 448.2 (M++1), 446.1 (M−−1); 1HNMR (DMSO-d6) 11.62 (s, 1H), 11.07 (s, 1H), 7.77 (d, J=1.80 Hz, 1H), 7.57 (m, 1H ), 7.26 (m, 5H), 7.21 (d, J=2.40 Hz, 1H), 6.94 (tri, J=6.00 Hz, 1H), 6.84 (m, 2H), 6.44(d, J=2.40 Hz, 1H), 6.16 (s, 1H), 4.97 (s, 2H), 3.62 (s, 3H).

reactant | (6-benzyloxy-1H-indol-3-yl}-oxo-acetic acid methyl ester | 3.2 mmol, 1.0 g | COC(C(=O)C1=CNC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C18H15NO4
reactant | 2-(1-methyl-1H-indol-7-yl)-acetamide | 3.2 mmol, 608 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | tBuOK | 3.5 equiv. | C(C)(C)(C)O[K]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-(6-Benzyloxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 700 mg, 74% yield | C(C1=CC=CC=C1)OC1=CC=C2C(=CNC2=C1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C28H21N3O3
